### PR TITLE
[Merged by Bors] - chore(Archive): small golfs

### PR DESCRIPTION
**Pull request by grunweg**
Use fun_prop more, and make indentation match mathlib style better. Extracted from #31607.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by YaelDillies — COMMENTED** [review]
Thanks! 🚀

maintainer merge

File: Archive/Wiedijk100Theorems/BuffonsNeedle.lean [hunk 1]
```diff
@@ -274,8 +270,7 @@ the integral lemmas below.
 -/
 lemma intervalIntegrable_min_const_sin_mul (a b : ℝ) :
     IntervalIntegrable (fun (θ : ℝ) => min d (θ.sin * l)) ℙ a b := by
-  apply Continuous.intervalIntegrable
-  exact Continuous.min continuous_const (Continuous.mul Real.continuous_sin continuous_const)
+  apply Continuous.intervalIntegrable (by fun_prop)
```
Comment (b-mehta) [inline Archive/Wiedijk100Theorems/BuffonsNeedle.lean:273]: we ought to make IntervalIntegrable work with fun_prop too...

**Review by b-mehta — COMMENTED** [review]
Nice, thanks!

bors merge

File: Archive/Wiedijk100Theorems/BuffonsNeedle.lean (hunk 1 above)
Comment (YaelDillies) [reply Archive/Wiedijk100Theorems/BuffonsNeedle.lean:273]: It's in the tracking issue now (sorry can't find it right now)
